US04107174
126 g (1 mol) of dimethylmaleic anhydride and 115 g (1 mol) of 4-aminocyclohexanol are warmed, whilst stirring, to 120°-125° C (internal temperature) for 30 minutes in an oil bath. After cooling to about 20° C, the reaction product is dissolved in 500 ml of methylene chloride and the solution is extracted once with 100 ml of 1 N NaOH, whilst cooling with ice. The reaction product is then washed twice with water and dried over Na2SO4. The solvent is evaporated and the residue is recrystallised from a 1:1 mixture by volume of ethyle acetate and petroleum ether. 155 g (70% of theory) of N-(4-hydroxycyclohexyl)-dimethyl-maleimide are obtained; melting point 109°-110° C.

reactant | dimethylmaleic anhydride | 1 mol, 126 g | C/C/1=C(/C(=O)OC1=O)\C | C6H6O3
reactant | 4-aminocyclohexanol | 1 mol, 115 g | NC1CCC(CC1)O | C6H13NO
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N-(4-hydroxycyclohexyl)-dimethyl-maleimide | 155 g, 70% | OC1CCC(CC1)N1C(C(=C(C1=O)C)C)=O | C12H17NO3
